US05990142
25A 2-(4'-Fluorobenzyloxymethyl)-5-hydroxymethyl-2,3-dihydrobenzofuran
Following the process described in example 18 (point C), starting from ethyl 2-(4'-fluorobenzyloxymethyl)-2,3-dihydrobenzofuran-2-carboxylate (7.00 g, 23.2 mmol), LiAlH4 (3.51 g, 92.6 mmol) and dry ethyl ether (300 ml), the title compound was prepared (83% yield).

reactant | ethyl 2-(4'-fluorobenzyloxymethyl)-2,3-dihydrobenzofuran-2-carboxylate | 23.2 mmol, 7.00 g | FC1=CC=C(COCC2(OC3=C(C2)C=CC=C3)C(=O)OCC)C=C1 | C19H19FO4
reactant | LiAlH4 | 92.6 mmol, 3.51 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2-(4'-Fluorobenzyloxymethyl)-5-hydroxymethyl-2,3-dihydrobenzofuran | 83% yield | FC1=CC=C(COCC2OC3=C(C2)C=C(C=C3)CO)C=C1 | C17H17FO3
